US20010014677A1
(b) Methyl 2-(1,3-benzodioxol-5-yl)-2-hydroxyacetate
Lithium chloride (11.82 g), potassium hydroxide (31.4 g) and tetrabutylammonium bromide (4.5 g) were dissolved in a mixture of 1,4-dioxane (120 ml) and water (120 ml). Piperonal (21 g, 140 mmol) was added to this vigorously stirred ice-cold mixture, and after 10 minutes bromoform (12.2 ml 140 mmol) was added dropwise over ˜30 minutes. Stirring was continued for 20 hours at ambient temperature. Water (500 ml) was added and the mixture warmed to dissolve the precipitate. After washing with diethylether, the aqueous solution was acidified with concentrated hydrochloric acid. The crude carboxylic acid intermediate was isolated by extraction with diethylether and evaporation in vacuo. The residue was dissolved in methanol (500 ml) and acidified with 20 drops of concentrated sulphuric acid. The solution was heated to reflux for 2 hours, then cooled and evaporated in vacuo. The residue was dissolved in diethylether and washed with water. The organic fraction was dried (magnesium sulphate), and concentrated in vacuo. Flash chromatography using dichloromethane as eluant, and then recrystallisation from diisopropylether gave 13.2 g of the subtitle compound. (m.p. 93-95° C.) 1H NMR (300 MHz, CDCl3): δ=3.35 (d, 1H exchangeable), 3.77 (s, 3H), 5.07 (d, 1H), 5.95 (s, 2H), 6.80 (d, 1H), 6.90 (s, 1H), 6.92 (d, 1H). LRMS (Thermospray): 228.5 (MNH4+)

reactant | Lithium chloride | 11.82 g | [Cl-].[Li+]
reactant | potassium hydroxide | 31.4 g | [OH-].[K+]
reactant | Piperonal | 140 mmol, 21 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | bromoform | 140 mmol, 12.2 ml | C(Br)(Br)Br | CHBr3
reactant | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
catalyst | tetrabutylammonium bromide | 4.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 120 ml | O | H2O
solvent | methanol | 500 ml | CO | CH4O
catalyst | sulphuric acid | 20 drops | S(O)(O)(=O)=O | H2O4S
solvent | Water | 500 ml | O | H2O
product | Methyl 2-(1,3-benzodioxol-5-yl)-2-hydroxyacetate | 13.2 g | O1COC2=C1C=CC(=C2)C(C(=O)OC)O | C10H10O5
